US07163947B2
A solution of tert-butyl N′-(7-benzyloxy-3-nitroquinolin-4-yl)hydrazinecarboxylate (20.00 g, 48.73 mmol) in 200 mL of methanol and 200 mL of acetonitrile was treated with platinum on carbon (2.00 g, 0.51 mmol) and shaken under an atmosphere of hydrogen (3.8×105 Pa). After 17 h, the mixture was filtered through a pad of CELITE filter agent and rinsed with MeOH:MeCN (1:1) until the filtrate ran clear. The filtrate was concentrated under reduced pressure to yield 18.21 g of tert-butyl N′-(3-amino-7-benzyloxyquinolin-4-yl)hydrazinecarboxylate as a red/orange solid.

reactant | tert-butyl N′-(7-benzyloxy-3-nitroquinolin-4-yl)hydrazinecarboxylate | 48.73 mmol, 20.00 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NNC(=O)OC(C)(C)C | C21H22N4O5
solvent | methanol | 200 mL | CO | CH4O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | platinum on carbon | 0.51 mmol, 2.00 g | [Pt] | Pt
product | tert-butyl N′-(3-amino-7-benzyloxyquinolin-4-yl)hydrazinecarboxylate | 18.21 g | NC=1C=NC2=CC(=CC=C2C1NNC(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C21H24N4O3
